US07732438B2
Step D: N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-(methylimino)-1-(2,2,2-trifluoroethyl)azepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Mercury(II) chloride (23 mg, 0.084 mmol) was added to a solution of N-[(3R,6S)-6-(2,3-difluorophenyl)-2-thioxo-1-(2,2,2-trifluoroethyl)azepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide (32 mg, 0.055 mmol) and methylamine (2.0 M in tetrahydrofuran; 274 μL, 0.547 mmol) in ethanol (1 mL). After 2 h, the mixture was filtered and concentrated. Purification by reverse phase HPLC(C-18, 95% water/acetonitrile→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compound as a bis trifluoroacetate salt (33 mg). MS 580.2415 (M+1).

reactant | N-[(3R,6S)-6-(2,3-difluorophenyl)-2-thioxo-1-(2,2,2-trifluoroethyl)azepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 0.055 mmol, 32 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CC(F)(F)F)=S)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C26H27F5N6O2S
reactant | methylamine | 0.547 mmol, 2.0 M, 274 μL | CN | CH5N
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | Mercury(II) chloride | 0.084 mmol, 23 mg | [Hg](Cl)Cl
product | N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-(methylimino)-1-(2,2,2-trifluoroethyl)azepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CC(F)(F)F)=NC)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C27H30F5N7O2
